US05801170
3-(2-Morpholin-4-ylethoxy)-4-methoxyaniline
The title compound was prepared from 2-methoxy-5-nitrophenol and 4-(2-chloroethyl)morpholine hydrochloride using a similar procedure to Descriptions 1 and 2 (63%).

reactant | 2-methoxy-5-nitrophenol | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | 4-(2-chloroethyl)morpholine hydrochloride | Cl.ClCCN1CCOCC1
product | 3-(2-Morpholin-4-ylethoxy)-4-methoxyaniline | N1(CCOCC1)CCOC=1C=C(N)C=CC1OC | C13H20N2O3
